US05030735
Preparation of 2-Phenyl-5-(trifluoromethyl)pyrrole-3-carbonitrile without added base
4-Phenyl-2-(trifluoromethyl)-5(2H)-oxazolone (13.5 g, 0.059 mol), 2-chloroacrylonitrile (26 mL, 0.295 mol) and acetonitrile (250 mL) are heated at reflux temperature for 52 hours. The reaction mixture is then cooled to room temperature and concentrated in vacuo to give a solid. Recrystallization of the solid from toluene gives the title product as a yellow solid 10.1 g, 73%). Identified by NMR spectral analyses.

reactant | 4-Phenyl-2-(trifluoromethyl)-5(2H)-oxazolone | 0.059 mol, 13.5 g | C1(=CC=CC=C1)C1=NC(OC1=O)C(F)(F)F | C10H6F3NO2
reactant | 2-chloroacrylonitrile | 0.295 mol, 26 mL | ClC(C#N)=C | C3H2ClN
reactant | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 2-Phenyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 10.1 g, 73% | C1(=CC=CC=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H7F3N2
